US04210754
10.5 G. of p-chlorobenzoic acid anhydride are added portionwise to a solution of 4.55 g. of N-(2-aminoethyl)-morpholine in 100 ml. of pyridine, with stirring and cooling with ice-water. After complete addition, the mixture is stirred overnight at room temperature and subsequently evaporated to dryness. The residue is then evaporated twice more with 100 ml. of toluene each time. The solid residue is taken up in 200 ml. of methylene chloride and 200 ml. of water and rendered basic with 3-N sodium hydroxide solution. The phases are separated and the methylene chloride extract is washed with water, dried over sodium sulfate and evaporated. The residue is recrystallized from isopropanol and 4.5 g. of p-chloro-N-(2-morpholinoethyl)-benzamide are obtained, which is identical to the product obtained in Example 1.

reactant | p-chlorobenzoic acid anhydride | ClC1=CC=C(C(=O)OC(C2=CC=C(C=C2)Cl)=O)C=C1 | C14H8Cl2O3
reactant | N-(2-aminoethyl)-morpholine | NCCN1CCOCC1 | C6H14N2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | p-chloro-N-(2-morpholinoethyl)-benzamide | ClC1=CC=C(C(=O)NCCN2CCOCC2)C=C1 | C13H17ClN2O2
